US09024018B2
8-(Benzo[d]oxazole-2-carbonyl)-3-(methoxymethyl)imidazo[5,1-d][1,2,3,5]tetrazin-4(3H)-one (WW-057)
To a suspension of the N-(2-hydroxyphenyl)-3-(methoxymethyl)-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carboxamide (0.102 g; 0.322 mmol) and triphenylphosphine (0.184 mg; 0.700 mmol) in tetrahydrofuran (4 mL) was added diisopropyl azodicarboxylate (132 μL; 0.700 mmol). The suspension immediately disappeared and the reaction mixture turned red. After stirring for a short time, a precipitate reappeared. Stirring continued overnight. The solid was filtered, and washed with DCM to give the title compound as a yellow solid (0.037 mg; 39%).

reactant | N-(2-hydroxyphenyl)-3-(methoxymethyl)-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carboxamide | 0.322 mmol, 0.102 g | OC1=C(C=CC=C1)NC(=O)C=1N=CN2C1N=NN(C2=O)COC | C13H12N6O4
reactant | triphenylphosphine | 0.700 mmol, 0.184 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.700 mmol, 132 μL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | 8-(Benzo[d]oxazole-2-carbonyl)-3-(methoxymethyl)imidazo[5,1-d][1,2,3,5]tetrazin-4(3H)-one | 0.037 mg, 39% | O1C(=NC2=C1C=CC=C2)C(=O)C=2N=CN1C2N=NN(C1=O)COC | C14H10N6O4
